US07253198B2
To a solution of methyl 4-amino-3,5-dinitrobenzoate (D203) (3.0 g, 12.4 mmol, 1 equiv) in MeOH (40 ml) and cyclohexane (80 ml) was added 10% palladium on charcoal (50% wet, 2.0 g, 33% w/w) and the resulting mixture was refluxed for 30 min then cooled to room temperature. The catalyst was filtered off through a pad of celite and washed with DMF. The combined organic phases were concentrated in vacuo and the residue triturated with Et2O/iso-hexane to give methyl 3,4-diamino-5-nitrobenzoate (D204) (2.1 g, 80%) as a red solid which was used in the next step without further purification. [M+H]+=212.2, RT=2.46 min.

reactant | methyl 4-amino-3,5-dinitrobenzoate | 12.4 mmol, 3.0 g, 1 equiv | NC1=C(C=C(C(=O)OC)C=C1[N+](=O)[O-])[N+](=O)[O-] | C8H7N3O6
solvent | MeOH | 40 ml | CO | CH4O
solvent | cyclohexane | 80 ml | C1CCCCC1 | C6H12
catalyst | palladium on charcoal | 2.0 g | [Pd] | Pd
product | methyl 3,4-diamino-5-nitrobenzoate | 2.1 g, 80% | NC=1C=C(C(=O)OC)C=C(C1N)[N+](=O)[O-] | C8H9N3O4
